US06455550B1
Preparation of 1-(4-Cyanobutyl)cyclopentane Carboxylic Acid Methyl Ester
A solution of 1-(4-bromobutyl)cyclopentane carboxlic acid methyl ester was treated with a solution of 0.5 molar lithium cyanide in DMF (5 mmol, 10 mL) and stirred overnight at room temperature followed by heating at 75° C. for two hrs. The reaction mixture was evaporated to dryness, the residue was dissolved in ethyl acetate (30 mL) and washed with sat'd sodium bicarbonate (2×10 mL), and brine (5 mL) and dried over magnesium sulfate to give a yellow oil (860 mg). Silica gel chromtography eluting with 1:3 ethyl acetate:hexane yielded a pale oil (83%, 693 mg). LR MS (C12H19NO2): Obs mass, 227 (M+NH4), 248 (M+K).

reactant | 1-(4-bromobutyl)cyclopentane carboxlic acid methyl ester | COC(=O)C1(CCCC1)CCCCBr | C11H19BrO2
reactant | lithium cyanide | 0.5 molar | [C-]#N.[Li+]
reactant | DMF | 5 mmol, 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-Cyanobutyl)cyclopentane Carboxylic Acid Methyl Ester | 860 mg | COC(=O)C1(CCCC1)CCCCC#N | C12H19NO2
